US08859591B2
To a flask containing ethyl 3-(4-(1-(3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoate (37.0 mg, 0.0700 mmol) was added tetrahydrofuran (0.170 mL), methanol (0.170 mL), and 1 N sodium hydroxide (0.170 mL, 0.170 mmol) was then added. The suspension was stirred at room temperature for 18 hours. The reaction was quenched with 1 N hydrochloric acid to pH 2 and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to give crude material. The crude material was azeotrophed three times with methylene chloride and then dried in vacuo for 18 h to provide (+/−)-3-(4-(1-(3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido) propanoic acid (26.0 mg, 74%) as a solid. 1H NMR (400 MHz, CDCl3) δ 7.87 (s, 1H), 7.73 (d, J=8.4 Hz, 2H), 7.66 (s, 1H), 7.39 (d, J=82 Hz, 2H), 6.88 (t, J=6.0 Hz, 1H), 6.41-6.21 (m, 2H), 5.17 (dd, J=7.7, 5.2 Hz, 1H), 3.75-3.65 (m, 2H), 3.63 (s, 3H), 2.66 (t, J=5.9 Hz, 2H), 2.04-1.93 (m, 1H), 1.89 (s, 3H), 1.86-1.74 (m, 1H), 1.62-1.35 (m, 2H), 0.96 (t, J=7.4 Hz, 3H). MS (M+1): 520.4.

reactant | ethyl 3-(4-(1-(3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoate | 0.0700 mmol, 37.0 mg | COC=1C=C(OC(CCC)C2=CC=C(C(=O)NCCC(=O)OCC)C=C2)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C28H32F3N3O5
reactant | tetrahydrofuran | 0.170 mL | O1CCCC1 | C4H8O
reactant | methanol | 0.170 mL | CO | CH4O
reactant | sodium hydroxide | 0.170 mmol, 1 N, 0.170 mL | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (+/−)-3-(4-(1-(3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido) propanoic acid | 26.0 mg, 74% | COC=1C=C(OC(CCC)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C26H28F3N3O5
